US08183351B2
Va-10 Ethyl 1-(2-tert-butoxy-2-oxoethyl)-3-(trifluoromethyl)-1H-pyrazole-4-carboxylate
404 mg of Hünig-base and 469 mg of tert-butyl bromoacetate, dissolved in 2 ml of dichloromethane, are added to a solution of 50 mg of ethyl 3-(trifluoromethyl)-1H-pyrazole-4-carboxylate in 10 ml of dichloromethane. The mixture is stirred at room temperature for 16 hours. After addition of saturated sodium bicarbonate solution, the mixture is extracted with ethyl acetate, the organic phase is separated off and dried over sodium sulphate and the solvent is removed under reduced pressure. This gives 742 mg of ethyl 1-(2-tert-butoxy-2-oxoethyl)-3-(trifluoromethyl)-1H-pyrazole-4-carboxylate (Va-10) in a purity of about 78% (LCMS).

reactant | tert-butyl bromoacetate | 469 mg | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | ethyl 3-(trifluoromethyl)-1H-pyrazole-4-carboxylate | 50 mg | FC(C1=NNC=C1C(=O)OCC)(F)F | C7H7F3N2O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | Ethyl 1-(2-tert-butoxy-2-oxoethyl)-3-(trifluoromethyl)-1H-pyrazole-4-carboxylate | C(C)(C)(C)OC(CN1N=C(C(=C1)C(=O)OCC)C(F)(F)F)=O | C13H17F3N2O4
